US08460445B2
Synthesis of N-(2-mercaptoethyl)-2,2-dimethylpropionamide
22.7 g of 2-mercaptoethylamine hydrochloride (0.2 mol) and 32.4 g of triethylamine (0.32 mol) were introduced in suspension in 130 ml of dichloromethane at 0° C.-5° C. Over the course of 30 minutes, 12.1 g of pivaloyl chloride (0.1 mol) were added dropwise. The batch was stirred at 0° C. to 5° C. for 1 hour, at 40° C. for 1.5 hours, and then at room temperature for 12 hours. 70 ml of saturated ammonium chloride solution were added and a phase separation was carried out. This was repeated twice and the organic phases were combined, dried over sodium sulfate, and freed of their solvent under reduced pressure.

reactant | 2-mercaptoethylamine hydrochloride | 0.2 mol, 22.7 g | Cl.SCCN
reactant | triethylamine | 0.32 mol, 32.4 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.1 mol, 12.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ammonium chloride | 70 ml | [Cl-].[NH4+]
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | N-(2-mercaptoethyl)-2,2-dimethylpropionamide | SCCNC(C(C)(C)C)=O | C7H15NOS
